US07176306B2
2-[4-(2-Hydroxyethyl)piperazin-1-yl]-N-[2,4-dibromo-6-methyl-3-pyridyl]acetamide (1.00 g, 2.29 mmol) was dissolved in pyrrolidine (10 mL), and the solution was subjected to reflux for 4 days. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to separation through silica gel column chromatography (developer: hexane:acetone=2:1), to thereby yield a crude product of 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(pyrrolidin-1-yl)-6-methyl-3-pyridyl]acetamide (1.22 g) as a brown foamed substance. The crude product was dissolved in pyridine (20 mL), and acetic anhydride (10 mL) was added thereto under cooling with ice, followed by stirring for 14 hours at room temperature. The reaction mixture was concentrated under reduced pressure. Toluene (70 mL) was added to the residue and then evaporated three times, followed by purification through silica gel column chromatography (developer: chloroform:methanol=20:1→chloroform:ammonia-saturated methanol=50:1→chloroform:ammonia-saturated methanol=20:1), to thereby yield a brown oil (1.05 g). The oil was dissolved in ammonia-saturated methanol (30 mL), and the solution was stirred for 14 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (developer: chloroform:ammonia-saturated methanol=100:1→chloroform:ammonia-saturated methanol=20:1), to thereby yield 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(pyrrolidin-1-yl)-6-methyl-3-pyridyl]acetamide (911 mg, yield 95%) as a pale brown foamed susbtance.

reactant | 2-[4-(2-Hydroxyethyl)piperazin-1-yl]-N-[2,4-dibromo-6-methyl-3-pyridyl]acetamide | 2.29 mmol, 1.00 g | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1Br)C)Br | C14H20Br2N4O2
reactant | pyrrolidine | 10 mL | N1CCCC1 | C4H9N
product | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(pyrrolidin-1-yl)-6-methyl-3-pyridyl]acetamide | 1.22 g | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1N1CCCC1)C)N1CCCC1 | C22H36N6O2
